US09233985B2
While under nitrogen, a mixture of tert-butyl 3-allyl-4-oxocyclopentylcarbamate, mixture of isomers (1.08 g, 4.5 mmol) and ammonium acetate (1.39 g, 18 mmol) in 2,2,2-trifluoroethanol (5 mL) was treated with t-butylisonitrile (1.53 mL, 13.5 mmol) and stirred at room temperature for 3 days. The reaction mixture was concentrated in vacuo and dissolved in dichloromethane (50 mL). The solution was washed with water (25 mL), dried (Na2SO4), and added to a silica gel column (˜250 cc). This was eluted successively with 50%, 65%, 70%, and 75% ethyl acetate in heptane to afford tert-butyl (1S,3S,4S)-3-acetamido-4-allyl-3-(tert-butylcarbamoyl)cyclopentylcarbamate (0.99 g, 58%) as a white solid. NMR (CDCl3): δ 7.72 and 7.04 (br s, 1 H combined), 7.27 and 6.35 (br s, 1 H combined), 5.84 and 5.06 (br s, 1 H combined), 5.55-5.70 (m, 1 H), 4.85-4.95 (m, 2 H), 3.90-4.15 (m, 1 H), 2.10-2.90 (m, 4 H), 1.70-2.00 (m, 6 H), 1.20-1.40 (m, 18 H). MS (M+1): 382.2.

reactant | tert-butyl 3-allyl-4-oxocyclopentylcarbamate | C(C=C)C1CC(CC1=O)NC(OC(C)(C)C)=O | C13H21NO3
reactant | ammonium acetate | 18 mmol, 1.39 g | C(C)(=O)[O-].[NH4+]
reactant | t-butylisonitrile | 13.5 mmol, 1.53 mL | C(C)(C)(C)[N+]#[C-] | C5H9N
reactant | 2,2,2-trifluoroethanol | 5 mL | FC(CO)(F)F | C2H3F3O
product | tert-butyl (1S,3S,4S)-3-acetamido-4-allyl-3-(tert-butylcarbamoyl)cyclopentylcarbamate | 0.99 g, 58% | C(C)(=O)N[C@]1(C[C@H](C[C@@H]1CC=C)NC(OC(C)(C)C)=O)C(NC(C)(C)C)=O | C20H35N3O4
